US06451810B1
According to the general method of Example 14, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine and 3-phenoxybenzoyl chloride were combined to provide N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-3-phenoxybenzamide as a white powder, m.p. 105.0-107.0° C. 1H NMR (300 MHz, DMSO-d6) δ8.54 (t, J=5.4 Hz, 1H), 8.34 (s, 1H), 8.10 (d, J=8.1 Hz, 1H), 7.69 (dd, J=8.1, 1.2 Hz, 1H), 7.58-7.29 (m, 9H), 7.19-7.13 (m, 2H), 7.04-6.99 (m, 2H), 4.65 (t, J=7.2 Hz, 2H), 3.28 (m, 2H), 1.89 (quintet, J=7.2 Hz, 2H), 1.58 (quintet, J=7.2 Hz, 2H); MS (EI) m/e 451.2012 (451.2008 calcd for C27H25N5O2).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | 3-phenoxybenzoyl chloride | O(C1=CC=CC=C1)C=1C=C(C(=O)Cl)C=CC1 | C13H9ClO2
product | N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-3-phenoxybenzamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(C2=CC(=CC=C2)OC2=CC=CC=C2)=O | C27H25N5O2
